US06235787B1
A solution of 0.21 g of (E)-2(R)-[1(RS)-[(tetrahydro-2(RS)-pyranyloxy)carbamoyl]-4-(3-pyridyl)-3-butenyl]-2′-(methanesulphonyl)-4-methyl-2′-phenylvalerohydrazide in 5 ml of methanol was treated with 0.097 g of 4-toluenesulphonic acid. The mixture was stirred for 2.5 hours at room temperature and then diluted with water. The solid was filtered off, washed with water and diethyl ether and dried in vacuum to yield 0.138 g of (E)-2(R)-[1(RS)-(hydroxycarbamoyl)-4-(3-pyridyl)-3-butenyl]-2′-(methanesulphonyl)-4-methyl-2′-phenylvalerohydrazide in the form of a white solid.

reactant | (E)-2(R)-[1(RS)-[(tetrahydro-2(RS)-pyranyloxy)carbamoyl]-4-(3-pyridyl)-3-butenyl]-2′-(methanesulphonyl)-4-methyl-2′-phenylvalerohydrazide | 0.21 g | O1C(CCCC1)ONC(=O)C(C\C=C\C=1C=NC=CC1)[C@H](C(=O)NN(C1=CC=CC=C1)S(=O)(=O)C)CC(C)C | C28H38N4O6S
reactant | 4-toluenesulphonic acid | 0.097 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | methanol | 5 ml | CO | CH4O
solvent | water | O | H2O
product | (E)-2(R)-[1(RS)-(hydroxycarbamoyl)-4-(3-pyridyl)-3-butenyl]-2′-(methanesulphonyl)-4-methyl-2′-phenylvalerohydrazide | 0.138 g | ONC(=O)C(C\C=C\C=1C=NC=CC1)[C@H](C(=O)NN(C1=CC=CC=C1)S(=O)(=O)C)CC(C)C | C23H30N4O5S
